US08193164B2
Step GA4: Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester
(1S,2R,3S,5R)-3-Amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol hydrochloride (Intermediate GA3) (3.0 g, 5.6 mmol) is dissolved in dry THF (100 mL) and TEA (2.8 g, 28 mmol). Acetoxyacetylchloride (0.76 g, 5.6 mmol) is dissolved in dry THF (4 mL) and is added to the reaction mixture dropwise.

reactant | (1S,2R,3S,5R)-3-Amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol hydrochloride | 5.6 mmol, 3.0 g | Cl.N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O
reactant | Acetoxyacetylchloride | 5.6 mmol, 0.76 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29ClN6O5
